US06713287B1
A method for synthesizing 3-(1-propenyl)-1,5-dihydro-3H-2,4-benzodioxepine is illustrated in Scheme 3. 1,2-Benzenedimethanol (500 mg, 3.62 mmol) and p-toluenesulfonic acid (172 mg, 0.9 mmol) were dissolved in 2 mL of dry DME and triethylortoformate (0.396 mL, 3.62 mmol) was added. The solution was stirred at rt. and under argon for 1 h. Ether (20 mL) was added and the organic layer washed with a saturated solution of NaHCO3 and water, then dried (Na2SO4). The solvent was evaporated giving crude 3-methoxy-1,5-dihydro-3H-2,4 benzodioxepine as a colorless oil (526 mg, 89%).

reactant | 3-(1-propenyl)-1,5-dihydro-3H-2,4-benzodioxepine | C(=CC)C1OCC2=C(CO1)C=CC=C2 | C12H14O2
reactant | 1,2-Benzenedimethanol | 3.62 mmol, 500 mg | C=1(C(=CC=CC1)CO)CO | C8H10O2
reactant | p-toluenesulfonic acid | 0.9 mmol, 172 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Ether | 20 mL | CCOCC | C4H10O
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 3-methoxy-1,5-dihydro-3H-2,4 benzodioxepine | 526 mg, 89% | COC1OCC2=C(CO1)C=CC=C2 | C10H12O3
